* e:\Aishwarya\mixed_signal_soc_design_marathon\security_system\security_system.cir

.include "C:\FOSSEE\eSim\library\sky130_fd_pr/models/sky130_fd_pr__model__linear.model.spice"
.lib "C:\FOSSEE\eSim\library\sky130_fd_pr/models/sky130.lib.spice" tt
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models/sky130_fd_pr__model__inductors.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr/models/sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr/models/sky130_fd_pr__model__r+c.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr/models/sky130_fd_pr__model__pnp.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr/models/sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
.include avsd_opamp.sub
x1 net-_sc1-pad2_ net-_x1-pad2_ in1 sine first gnd avsd_opamp
x2 net-_sc1-pad2_ net-_x1-pad2_ sine in2 second gnd avsd_opamp
xsc1 in1 net-_sc1-pad2_ gnd sky130_fd_pr__res_generic_nd 
xsc2 in2 in1 gnd sky130_fd_pr__res_generic_nd 
xsc3 gnd in2 gnd sky130_fd_pr__res_generic_nd 
* u1  first plot_v1
* u2  second plot_v1
v1 net-_sc1-pad2_ gnd  dc 1.5v
v2  sine gnd sine( 0 1.8 2 0 0)
v3 gnd net-_x1-pad2_  dc 2v
* u8  sine plot_v1
* u5  in1 plot_v1
* u6  in2 plot_v1
* u12  net-_u11-pad2_ net-_u12-pad2_ aish_inverter
* u11  first net-_u11-pad2_ adc_bridge_1
* u13  net-_u12-pad2_ net-_u13-pad2_ aish_inverter
* u14  net-_u13-pad2_ ffirst dac_bridge_1
* u15  ffirst plot_v1
* u17  net-_u16-pad2_ net-_u17-pad2_ aish_inverter
* u16  second net-_u16-pad2_ adc_bridge_1
* u18  net-_u17-pad2_ net-_u18-pad2_ aish_inverter
* u19  net-_u18-pad2_ ssecond dac_bridge_1
* u20  ssecond plot_v1
* u3  bxnor b1xnor net-_u22-pad1_ d_xnor
* u21  ffirst second bxnor b1xnor adc_bridge_2
* u23  xnor plot_v1
* u22  net-_u22-pad1_ xnor dac_bridge_1
* u24  bxnor plot_v1
* u27  b1xnor plot_v1
* u32  net-_u31-pad3_ net-_u31-pad4_ net-_u32-pad3_ net-_u32-pad4_ net-_u32-pad5_ net-_u32-pad6_ aish_mod16
* u31  xnor gnd net-_u31-pad3_ net-_u31-pad4_ adc_bridge_2
* u33  net-_u32-pad6_ net-_u32-pad5_ net-_u32-pad4_ net-_u32-pad3_ c1 c2 c3 c4 dac_bridge_4
* u34  net-_u34-pad1_ net-_u34-pad2_ net-_u34-pad3_ net-_u34-pad4_ net-_u34-pad5_ net-_u34-pad6_ net-_u34-pad7_ net-_u34-pad8_ net-_u34-pad9_ net-_u34-pad10_ net-_u34-pad11_ net-_u34-pad12_ net-_u34-pad13_ net-_u34-pad14_ net-_u34-pad15_ net-_u34-pad16_ net-_u32-pad3_ net-_u32-pad4_ net-_u32-pad5_ net-_u32-pad6_ net-_u26-pad1_ aish_mux
v11  net-_u4-pad4_ gnd 12
* u36  c1 plot_v1
* u37  c2 plot_v1
* u39  c4 plot_v1
* u38  c3 plot_v1
* u35  net-_u26-pad1_ net-_u32-pad3_ net-_u32-pad4_ net-_u32-pad5_ net-_u32-pad6_ net-_u35-pad6_ net-_u35-pad7_ net-_u35-pad8_ net-_u35-pad9_ net-_u35-pad10_ net-_u35-pad11_ net-_u35-pad12_ net-_u35-pad13_ net-_u10-pad1_ net-_u10-pad2_ net-_u10-pad3_ net-_u10-pad4_ net-_u10-pad5_ net-_u10-pad6_ net-_u10-pad7_ net-_u10-pad8_ aish_demux
* u40  door1 plot_v1
* u41  door2 plot_v1
* u42  door3 plot_v1
* u43  door4 plot_v1
* u44  door5 plot_v1
* u45  door6 plot_v1
* u48  door9 plot_v1
* u47  door8 plot_v1
* u49  door10 plot_v1
* u46  door7 plot_v1
* u50  door16 plot_v1
* u51  door15 plot_v1
* u52  door14 plot_v1
* u53  door13 plot_v1
* u54  door12 plot_v1
* u57  door11 plot_v1
* u9  net-_u35-pad6_ net-_u35-pad7_ net-_u35-pad8_ net-_u35-pad9_ net-_u35-pad10_ net-_u35-pad11_ net-_u35-pad12_ net-_u35-pad13_ door1 door2 door3 door4 door5 door6 door7 door8 dac_bridge_8
* u10  net-_u10-pad1_ net-_u10-pad2_ net-_u10-pad3_ net-_u10-pad4_ net-_u10-pad5_ net-_u10-pad6_ net-_u10-pad7_ net-_u10-pad8_ door9 door10 door11 door12 door13 door14 door15 door16 dac_bridge_8
* u4  gnd gnd gnd net-_u4-pad4_ gnd gnd gnd net-_u4-pad4_ net-_u34-pad1_ net-_u34-pad2_ net-_u34-pad3_ net-_u34-pad4_ net-_u34-pad5_ net-_u34-pad6_ net-_u34-pad7_ net-_u34-pad8_ adc_bridge_8
* u7  gnd gnd gnd net-_u4-pad4_ gnd gnd gnd net-_u4-pad4_ net-_u34-pad9_ net-_u34-pad10_ net-_u34-pad11_ net-_u34-pad12_ net-_u34-pad13_ net-_u34-pad14_ net-_u34-pad15_ net-_u34-pad16_ adc_bridge_8
* u26  net-_u26-pad1_ doorin dac_bridge_1
* u25  doorin plot_v1
* u70  gnd plot_v1
a1 [net-_u11-pad2_ ] [net-_u12-pad2_ ] u12
a2 [first ] [net-_u11-pad2_ ] u11
a3 [net-_u12-pad2_ ] [net-_u13-pad2_ ] u13
a4 [net-_u13-pad2_ ] [ffirst ] u14
a5 [net-_u16-pad2_ ] [net-_u17-pad2_ ] u17
a6 [second ] [net-_u16-pad2_ ] u16
a7 [net-_u17-pad2_ ] [net-_u18-pad2_ ] u18
a8 [net-_u18-pad2_ ] [ssecond ] u19
a9 [bxnor b1xnor ] net-_u22-pad1_ u3
a10 [ffirst second ] [bxnor b1xnor ] u21
a11 [net-_u22-pad1_ ] [xnor ] u22
a12 [net-_u31-pad3_ ] [net-_u31-pad4_ ] [net-_u32-pad3_ net-_u32-pad4_ net-_u32-pad5_ net-_u32-pad6_ ] u32
a13 [xnor gnd ] [net-_u31-pad3_ net-_u31-pad4_ ] u31
a14 [net-_u32-pad6_ net-_u32-pad5_ net-_u32-pad4_ net-_u32-pad3_ ] [c1 c2 c3 c4 ] u33
a15 [net-_u34-pad1_ net-_u34-pad2_ net-_u34-pad3_ net-_u34-pad4_ net-_u34-pad5_ net-_u34-pad6_ net-_u34-pad7_ net-_u34-pad8_ net-_u34-pad9_ net-_u34-pad10_ net-_u34-pad11_ net-_u34-pad12_ net-_u34-pad13_ net-_u34-pad14_ net-_u34-pad15_ net-_u34-pad16_ ] [net-_u32-pad3_ net-_u32-pad4_ net-_u32-pad5_ net-_u32-pad6_ ] [net-_u26-pad1_ ] u34
a16 [net-_u26-pad1_ ] [net-_u32-pad3_ net-_u32-pad4_ net-_u32-pad5_ net-_u32-pad6_ ] [net-_u35-pad6_ net-_u35-pad7_ net-_u35-pad8_ net-_u35-pad9_ net-_u35-pad10_ net-_u35-pad11_ net-_u35-pad12_ net-_u35-pad13_ net-_u10-pad1_ net-_u10-pad2_ net-_u10-pad3_ net-_u10-pad4_ net-_u10-pad5_ net-_u10-pad6_ net-_u10-pad7_ net-_u10-pad8_ ] u35
a17 [net-_u35-pad6_ net-_u35-pad7_ net-_u35-pad8_ net-_u35-pad9_ net-_u35-pad10_ net-_u35-pad11_ net-_u35-pad12_ net-_u35-pad13_ ] [door1 door2 door3 door4 door5 door6 door7 door8 ] u9
a18 [net-_u10-pad1_ net-_u10-pad2_ net-_u10-pad3_ net-_u10-pad4_ net-_u10-pad5_ net-_u10-pad6_ net-_u10-pad7_ net-_u10-pad8_ ] [door9 door10 door11 door12 door13 door14 door15 door16 ] u10
a19 [gnd gnd gnd net-_u4-pad4_ gnd gnd gnd net-_u4-pad4_ ] [net-_u34-pad1_ net-_u34-pad2_ net-_u34-pad3_ net-_u34-pad4_ net-_u34-pad5_ net-_u34-pad6_ net-_u34-pad7_ net-_u34-pad8_ ] u4
a20 [gnd gnd gnd net-_u4-pad4_ gnd gnd gnd net-_u4-pad4_ ] [net-_u34-pad9_ net-_u34-pad10_ net-_u34-pad11_ net-_u34-pad12_ net-_u34-pad13_ net-_u34-pad14_ net-_u34-pad15_ net-_u34-pad16_ ] u7
a21 [net-_u26-pad1_ ] [doorin ] u26
* Schematic Name:                             aish_inverter, NgSpice Name: aish_inverter
.model u12 aish_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u11 adc_bridge(in_low=0 in_high=1 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             aish_inverter, NgSpice Name: aish_inverter
.model u13 aish_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u14 dac_bridge(out_low=0 out_high=1 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             aish_inverter, NgSpice Name: aish_inverter
.model u17 aish_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u16 adc_bridge(in_low=0 in_high=1 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             aish_inverter, NgSpice Name: aish_inverter
.model u18 aish_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u19 dac_bridge(out_low=0 out_high=1 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             d_xnor, NgSpice Name: d_xnor
.model u3 d_xnor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u21 adc_bridge(in_low=0 in_high=1 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u22 dac_bridge(out_low=0 out_high=1 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             aish_mod16, NgSpice Name: aish_mod16
.model u32 aish_mod16(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u31 adc_bridge(in_low=0 in_high=1 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_4, NgSpice Name: dac_bridge
.model u33 dac_bridge(out_low=0 out_high=1 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             aish_mux, NgSpice Name: aish_mux
.model u34 aish_mux(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             aish_demux, NgSpice Name: aish_demux
.model u35 aish_demux(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             dac_bridge_8, NgSpice Name: dac_bridge
.model u9 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_8, NgSpice Name: dac_bridge
.model u10 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             adc_bridge_8, NgSpice Name: adc_bridge
.model u4 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_8, NgSpice Name: adc_bridge
.model u7 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u26 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 0.1e-00 3e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(in1) v(in2) v(sine)
plot v(first) v(second) 
plot v(ffirst) v(ssecond)
plot v(xnor)
plot v(c1) v(c2)+4 v(c4)+8 v(c3)+12
plot v(doorin)
plot v(door1) v(door2)+8 v(door3)+16 v(door4)+24 v(door5)+32 v(door6)+40 v(door7)+48 v(door8)+56 v(door9)+64 v(door10)+72 v(door11)+80 v(door12)+88 v(door13)+96 v(door14)+104 v(door15)+112 v(door16)+120
.endc
.end
